US08735384B2
A solution of methyl 2-(2-amino-3-morpholinoquinolin-6-yl)-3-(3,3-dimethylbutyl)benzoate (520 mg, 1.162 mmol) in MeOH (20 mL) and 5N NaOH (0.929 mL, 4.65 mmol) was heated to 80° C. for 7 h. The solution was cooled to RT and acidified with 5N HCl to pH of ˜4. The solution was concentrated under reduced pressure. The residue was dissolved in MeOH and filtered. The filtrate was concentrated under reduced pressure to yield 2-(2-amino-3-morpholinoquinolin-6-yl)-3-(3,3-dimethylbutyl)benzoic acid hydrochloride as a brown solid which was used without further purification.

reactant | methyl 2-(2-amino-3-morpholinoquinolin-6-yl)-3-(3,3-dimethylbutyl)benzoate | 1.162 mmol, 520 mg | NC1=NC2=CC=C(C=C2C=C1N1CCOCC1)C1=C(C(=O)OC)C=CC=C1CCC(C)(C)C | C27H33N3O3
reactant | NaOH | 4.65 mmol, 5N, 0.929 mL | [OH-].[Na+]
reactant | HCl | 5N | Cl | ClH
solvent | MeOH | 20 mL | CO | CH4O
product | 2-(2-amino-3-morpholinoquinolin-6-yl)-3-(3,3-dimethylbutyl)benzoic acid hydrochloride | Cl.NC1=NC2=CC=C(C=C2C=C1N1CCOCC1)C1=C(C(=O)O)C=CC=C1CCC(C)(C)C | InChI=1S/C26H31N3O3.ClH/c1-26(2,3)10-9-17-5-4-6-20(25(30)31)23(17)18-7-8-21-19(15-18)16-22(24(27)28-21)29-11-13-32-14-12-29;/h4-8,15-16H,9-14H2,1-3H3,(H2,27,28)(H,30,31);1H
